US05538973
Synthesis of 5-(1H-imidazol-1-yl )-1H-indole
5-(1H-Imidazol-1-yl)indoline (3.0 g) was dissolved in DMF (30 ml), and sodium hydride (1.3 g) was added thereto. The mixture was stirred at room temperature for 24 hours. After extraction with ethyl acetate, the extract was washed with water and dried over anhydrous sodium sulfate. The solvent was distilled away, and the residue was purified by silica gel column chromatography (ethyl acetate) to give 1.6 g of the title compound 5-(1H-imidazol-1-yl)-1H-indole.

reactant | 5-(1H-Imidazol-1-yl)indoline | 3.0 g | N1(C=NC=C1)C=1C=C2CCNC2=CC1 | C11H11N3
reactant | sodium hydride | 1.3 g | [H-].[Na+]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 5-(1H-imidazol-1-yl )-1H-indole | 1.6 g | N1(C=NC=C1)C=1C=C2C=CNC2=CC1 | C11H9N3
